US05296591
A solution of 3(RS)-[[4-[(4-nitrobenzyl)aminocarbonyl]phenylcarbonyl]-L-valyl-L-prolyl]amino-1,1,1-trifluoro-4-methyl-2-oxopentane (50 mg) in methanol (10 ml) was hydrogenated over 10% palladium on carbon (10 mg) at 4 atmosphere pressure of hydrogen for 2 hours. The catalyst was removed by filtration and the filtrate was evaporated under reduced pressure to give 3(RS)-[[4-[(4-aminobenzyl)aminocarbonyl]phenylcarbonyl]-L-valyl-L-prolyl]amino-1,1,1-trifluoro-4-methyl-2-oxopentane (46 mg).

reactant | 3(RS)-[[4-[(4-nitrobenzyl)aminocarbonyl]phenylcarbonyl]-L-valyl-L-prolyl]amino-1,1,1-trifluoro-4-methyl-2-oxopentane | 50 mg | [N+](=O)([O-])C1=CC=C(CNC(=O)C2=CC=C(C=C2)C(=O)N[C@@H](C(C)C)C(=O)N2[C@H](C(=O)NC(C(C(F)(F)F)=O)C(C)C)CCC2)C=C1 | C31H36F3N5O7
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
product | 3(RS)-[[4-[(4-aminobenzyl)aminocarbonyl]phenylcarbonyl]-L-valyl-L-prolyl]amino-1,1,1-trifluoro-4-methyl-2-oxopentane | 46 mg | NC1=CC=C(CNC(=O)C2=CC=C(C=C2)C(=O)N[C@@H](C(C)C)C(=O)N2[C@H](C(=O)NC(C(C(F)(F)F)=O)C(C)C)CCC2)C=C1 | C31H38F3N5O5
